US06153786
3.25 g (2.75 mmol) of tetrakis(triphenylphosphine)palladium(0) are introduced into 250 ml of dichloromethane in a 500 ml round-bottomed flask under argon. The dark brown solution is stirred at room temperature for 1 h. Then 150 mg (1.25 mmol) of 4-dimethylaminopyridine, 21.5 g (137.5 mmol) of 1,2,2,6,6-pentamethylpiperidine and 10.25 g (125 mmol) of 1-hexyne are added and heated to reflux at 40° C. Subsequently, 17 g (125 mmol) of n-butyl chloroformate are added dropwise over the course of 60 min. After a reaction time of 24 h, the reaction mixture is worked up by distillation to isolate n-butyl 2-heptynoate in 90% yield.

reactant | 1,2,2,6,6-pentamethylpiperidine | 137.5 mmol, 21.5 g | CN1C(CCCC1(C)C)(C)C | C10H21N
reactant | 1-hexyne | 125 mmol, 10.25 g | C#CCCCC | C6H10
reactant | n-butyl chloroformate | 125 mmol, 17 g | ClC(=O)OCCCC | C5H9ClO2
catalyst | 4-dimethylaminopyridine | 1.25 mmol, 150 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.75 mmol, 3.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | n-butyl 2-heptynoate | 90% yield | C(C#CCCCC)(=O)OCCCC | C11H18O2
